US07037938B2
To a solution of (1R)-2-[[2-(4-bromophenyl)ethyl]-amino]-1-(3-chlorophenyl)ethanol (5.1 g) and imidazole (2.9 g) in N,N-dimethylformamide (30 ml) was added tert-butyl(dimethyl)silyl chloride (5.85 g) and the mixture was stirred at 40° C. for 24 hours. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with water, 5% acetic acid solution, saturated sodium biscarbonate solution and brine, dried over magnesium sulfate and evaporated under reduced pressure to give a crude product. To a solution of the product in tetrahydrofuran (80 ml) and triethylamine (2.0 ml) was added di-tert-butyl dicarbonate (3.14 g), and the mixture was stirred at room temperature for 3 hours. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=20/1) to give tert-butyl N-[2-(4-bromophenyl)ethyl]-N-[(2R)-2-[[tert-butyl(dimethyl)-silyl]oxy]-2-(3-chlorophenyl)ethyl]carbamate (5.0 g).

reactant | (1R)-2-[[2-(4-bromophenyl)ethyl]-amino]-1-(3-chlorophenyl)ethanol | 5.1 g | BrC1=CC=C(C=C1)CCNC[C@H](O)C1=CC(=CC=C1)Cl | C16H17BrClNO
reactant | imidazole | 2.9 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl(dimethyl)silyl chloride | 5.85 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | di-tert-butyl dicarbonate | 3.14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
product | tert-butyl N-[2-(4-bromophenyl)ethyl]-N-[(2R)-2-[[tert-butyl(dimethyl)-silyl]oxy]-2-(3-chlorophenyl)ethyl]carbamate | 5.0 g | BrC1=CC=C(C=C1)CCN(C(OC(C)(C)C)=O)C[C@@H](C1=CC(=CC=C1)Cl)O[Si](C)(C)C(C)(C)C | C27H39BrClNO3Si
